US05459270
EXAMPLE 51: cis-3-((3,5-Dimethylphenyl)methyloxy)-1-methyl-2-phenyl azetidine oxalate salt
To a solution of aluminium chloride (0.29 g) in tetrahydrofuran (10 ml), lithium aluminium hydride (2.2 ml) was carefully added dropwise. After the reaction mixture had been stirred for 1 h, a solution of 3-((3,5-dimethylphenyl)methyloxy)-1-methyl-4-phenyl azetidin-2-one (0.66 g) in tetrahydrofuran (5 ml) was added via syringe. After a further hour water (1 ml) was carefully added dropwise followed by dropwise addition of 2N sodium hydroxide (1 ml). Dichloromethane (75 ml) was added followed by magnesium sulphate. After stirring for 30 minutes the solution was filtered. The organic phase was dried (MgSO4), filtered and evaporated. The crude material was chromatographed on flash silica and eluted with ethyl acetate:petrol 1:1. The resulting compound was dissolved in ether and an ethereal solution of oxalic acid was added dropwise to give the title compound as a white solid, m.p.=147°-149° C. 1H NMR (360 MHz, DMSO) δ7.57 (2H, m), 7.43 (3H, m), 6.86 (1H, s), 6.62 (1H, s), 5.02 (m), 4.55 (m), 4.17 (1H, d, J=11 Hz), 3.94 (1H, d. J=11 Hz), 3.83 (1H, s), 2.61 (1H, s), 2.19 (1H, s); m/z (CI+) 282 (MH). Found: C, 67.75; H, 7.00; N, 3.78. Calcd for C19H23O1N1 . [COOH]2 : C, 67.91; H, 6.78; N, 3.77%.

reactant | aluminium chloride | 0.29 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-((3,5-dimethylphenyl)methyloxy)-1-methyl-4-phenyl azetidin-2-one | 0.66 g | CC=1C=C(C=C(C1)C)COC1C(N(C1C1=CC=CC=C1)C)=O | C19H21NO2
reactant | sodium hydroxide | 2N, 1 ml | [OH-].[Na+]
reactant | magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | lithium aluminium hydride | 2.2 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | water | 1 ml | O | H2O
product | cis-3-((3,5-Dimethylphenyl)methyloxy)-1-methyl-2-phenyl azetidine oxalate salt | C(C(=O)O)(=O)O.CC=1C=C(C=C(C1)C)CO[C@@H]1[C@@H](N(C1)C)C1=CC=CC=C1 | InChI=1S/C19H23NO.C2H2O4/c1-14-9-15(2)11-16(10-14)13-21-18-12-20(3)19(18)17-7-5-4-6-8-17;3-1(4)2(5)6/h4-11,18-19H,12-13H2,1-3H3;(H,3,4)(H,5,6)/t18-,19-;/m0./s1
